US03956494
Reacting N-allyl-2-methoxy-2-(2-pyridyl)thioacetamide with formaldehyde and morpholine by the procedure of Example 1 gives N-allyl-2-methoxy-3-morpholino-2-(2-pyridyl)thiopropanamide.

reactant | N-allyl-2-methoxy-2-(2-pyridyl)thioacetamide | C(C=C)NC(C(C1=NC=CC=C1)OC)=S | C11H14N2OS
reactant | formaldehyde | C=O | CH2O
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-allyl-2-methoxy-3-morpholino-2-(2-pyridyl)thiopropanamide | C(C=C)NC(C(CN1CCOCC1)(C1=NC=CC=C1)OC)=S | C16H23N3O2S
